US04141991
3-Ferrocenoyl-1-methyl-cyclohexene
Prepared from ferrocene, 3-methyl-2-cyclohexen-1-carboxylic acid chloride and aluminium chloride in methylene chloride at 0° C. in a manner analogous to that described in Example 1.

reactant | ferrocene | [CH-]1C=CC=C1.[CH-]1C=CC=C1.[Fe+2]
reactant | 3-methyl-2-cyclohexen-1-carboxylic acid chloride | CC1=CC(CCC1)C(=O)Cl | C8H11ClO
reactant | aluminium chloride | [Cl-].[Al+3].[Cl-].[Cl-]
solvent | methylene chloride | C(Cl)Cl | CH2Cl2
product | 3-Ferrocenoyl-1-methyl-cyclohexene | [C-]1(C=CC=C1)C(=O)C1C=C(CCC1)C.[CH-]1C=CC=C1.[Fe+2] | InChI=1S/C13H15O.C5H5.Fe/c1-10-5-4-8-12(9-10)13(14)11-6-2-3-7-11;1-2-4-5-3-1;/h2-3,6-7,9,12H,4-5,8H2,1H3;1-5H;/q2*-1;+2
